US04374138
B. 6-Amino-1,2-dihydro-2-oxo-3-quinolinecarboxylic acid
A solution of 3.63 g (14.9 mmol) of 1,2-dihydro-6-nitro-2-oxo-3-quinolinecarboxylic acid and 200 ml of dimethylformamide is hydrogenated using 1 g of Raney nickel catalyst at 52 psi and 23° until the required amount of hydrogen uptake is obtained. The catalyst is filtered off and the filtrate is evaporated to dryness. The residue is treated with ethanol and 3.0 g of the desired product is filtered.

reactant | 1,2-dihydro-6-nitro-2-oxo-3-quinolinecarboxylic acid | 14.9 mmol, 3.63 g | [N+](=O)([O-])C=1C=C2C=C(C(NC2=CC1)=O)C(=O)O | C10H6N2O5
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 1 g | [Ni] | Ni
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 6-Amino-1,2-dihydro-2-oxo-3-quinolinecarboxylic acid | NC=1C=C2C=C(C(NC2=CC1)=O)C(=O)O | C10H8N2O3
